US04413000
(Z)-1-Acetamido-2-triphenylmethylthioethene, e44, (1.07 g) in dry dichloromethane (30 ml) containing N-methylmorpholine (3.5 ml, 3.22 g) was cooled to -30° and treated with phosgene in toluene (8.4 ml, 12.5% w/w). After warming to room temperature and stirring for 30 minutes tetramethylguanidinium azide (600 mg) in dichloromethane (6 ml) was added. After 45 min. a further quantity of tetramethylguanidinium azide (300 mg) in dichloromethane was added. After a further 45 min. the reaction mixture was warmed with water (2×300 ml), followed by saturated brine. After drying (MgSO4) the dichloromethane was evaporated in vacuo. Toluene (30 ml) was added and evaporated in vacuo (2×) and the residual material was crystallised from ethyl acetate/hexane to give (Z)-1-(5-methyltetrazol-1-yl)-2-triphenylmethylthioethene (827 mg), m.p. 208°-210°, νmax. (CHCl3) 1600, 1490, 1445, 1410 cm-1, δ(CDCl3) 2.54 (3H, s), 6.15 (1H, d, J 9 Hz), 6.59 (1H, d, J 9 Hz), 7.35 (15 H, s) p.p.m. (Found: C, 71.65; H, 5.20; N, 14.41%. C23H20N4S requires C, 71.9; H, 5.21; N, 14.6%).

reactant | (Z)-1-Acetamido-2-triphenylmethylthioethene | C(C)(=O)N\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H21NOS
reactant | N-methylmorpholine | 3.5 ml, 3.22 g | CN1CCOCC1 | C5H11NO
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | tetramethylguanidinium azide | 600 mg | [N-]=[N+]=[N-].CN(C(N(C)C)=[NH2+])C
reactant | tetramethylguanidinium azide | 300 mg | [N-]=[N+]=[N-].CN(C(N(C)C)=[NH2+])C
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | toluene | 8.4 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
solvent | water | 300 ml | O | H2O
product | (Z)-1-(5-methyltetrazol-1-yl)-2-triphenylmethylthioethene | 827 mg | CC1=NN=NN1\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N4S
